US08563566B2
N-(2,6-dimethyl-4-(3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)phenyl)-3,3-dimethylbutanamide
Bis(dibenzylidineacetone)palladium (4 mg, 0.069 mmol) and (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethylamine (7 mg, 0.015 mmol) were added to dry toluene (1 mL purged with argon) and stirred for 15 minutes under argon. Potassium tert-butoxide (36 mg, 0.32 mmol), N-(4-bromo-2,6-dimethylphenyl)-3,3-dimethylbutanamide (52 mg, 0.17 mmol) and 3-(trifluoromethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine (WO/04069162) (40 mg, 0.15 mmol) were then added and the reaction mixture was stirred at 80° C. over night. The reaction mixture was then cooled to room temperature, concentrated and purified by biotage (75% Ethyl acetate:Hexanes) to afford the desired compound as a solid. 1H NMR (DMSO-d6, 400 MHz) δ 1.05 (s, 9H), 2.11 (s, 6H), 2.17 (s, 2H), 3.08 (t, J=5.6 Hz, 2H), 3.64 (t, J=5.9 Hz, 2H), 4.48 (s, 2H), 6.76 (s, 2H), 8.08 (s, 1H), 8.75 (s, 1H), 8.90 (s, 1H).

reactant | (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethylamine | 0.015 mmol, 7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | Potassium tert-butoxide | 0.32 mmol, 36 mg | CC(C)([O-])C.[K+]
reactant | N-(4-bromo-2,6-dimethylphenyl)-3,3-dimethylbutanamide | 0.17 mmol, 52 mg | BrC1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)C | C14H20BrNO
reactant | 3-(trifluoromethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine | 0.15 mmol, 40 mg | FC(C=1C=NC=2CCNCC2C1)(F)F | C9H9F3N2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-dimethyl-4-(3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl)phenyl)-3,3-dimethylbutanamide | CC1=C(C(=CC(=C1)N1CC=2C=C(C=NC2CC1)C(F)(F)F)C)NC(CC(C)(C)C)=O | C23H28F3N3O
